US07291635B2
To a cooled (ice/salt/water bath) solution of chlorosulfonylisocyanate (3.23 mL, 37.1 mmol) in CH2Cl2 (100 mL) is added trimethylsilylethanol (5.32 mL, 37.1 mmol). After 1 h, a solution of (3-Iodo-phenylamino)-acetic acid methyl ester (2.7 g, 9.28 mmol) (obtained by alkylation of 3-iodoaniline using the method of Tohru Fukuyama et. al., Tett. Lett. 38 (33) pp. 5831-34,1997) and TEA (5.3 mL, 38.04 mmol) in CH2Cl2 (50 mL) is added and the reaction is stirred for 2.5 h. The mixture is poured into 400 mL of 1N aqueous HCl and extracted with EtOAc. The EtOAc layer is washed with 1N aqueous HCl, dried over anhydrous Na2SO4, filtered and concentrated. Chromatography on a 110 g silica gel RediSep (Isco Inc.) column with a 30 mL/min gradient elution of 10:90 (EtOAc:hexane) to 40:60 over 55 min gives an oil. Trituration with Et2O yields N-(2-trimethylsilylethoxycarbonyl-sulfamoyl)-N-(3-iodo-phenyl)glycine methyl ester as a white solid.

reactant | water | O | H2O
reactant | chlorosulfonylisocyanate | 37.1 mmol, 3.23 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | trimethylsilylethanol | 37.1 mmol, 5.32 mL | C[Si](C)(C)C(C)O | C5H14OSi
reactant | 3-iodoaniline | IC=1C=C(N)C=CC1 | C6H6IN
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (3-Iodo-phenylamino)-acetic acid methyl ester | 9.28 mmol, 2.7 g | COC(CNC1=CC(=CC=C1)I)=O | C9H10INO2
